Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
visual changes
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year-old right-handed female who was 
transferred from ___ after identification of a 
left vertebral dissection in the setting of transient visual 
changes on day of presentation ___.
The patient was in her usual state of health during a run with 
girlfriends at around 8:00am when she developed left lateral 
neck pain, characterized by a small “twinge” of pain, which she 
often has when exercising.   It was aching in nature, 
non-radiating and improved with manual massage.   Thereafter 
during breakfast with her friend at around 9:00am, she noted 
that her right visual field became blurry or “droopy” without 
loss of vision or curtain-like sensation.  She noted that the 
changes were noted in the right hemifield of either eye.   She 
then developed scattered shimmering lights in her right field of 
view along with lines across her field of view.  She went home 
and attempted to rest, noting fatigue and generalized weakness,  
as well as a central occipital headache.  The headache was 
aching in nature, ___ in severity, non-radiating, without 
associated photophobia, phonophobia, nausea or vomiting.  She 
took Acetaminophen x2 tablets without significant improvement.   
After notifying her mother and PCP’s office, she then developed 
left field of view positive visual phenomena, characterized by 
shimmering lights, large floaters, and moving areas of blurry 
vision.   She also was noted to be intermittently drowsy.  Her 
mother has a history of migraines, but she denies any similar 
headaches like this in the past.

Because of the continued symptoms, she presented to ___ 
___, where she had resolution of visual phenomena by around 
11:30am.  Her headache improved.   She underwent Head CT and 
Head/Neck CTA that showed a reported 3cm left vertebral 
dissection, for which she was transferred by ___ for further 
evaluation and management.   She received NS 1L and Lorazepam 
1mg IV after imaging due to anxiety. 

She endorses ___ headaches in the past month, always resolved 
with acetaminophen, more likely frontal.  They are triggered by 
alcohol or caffeine withdrawal or seasonal allergies.  

On neuro ROS, the pt denies loss of vision, diplopia, 
dysarthria, dysphagia, vertigo, tinnitus or hearing difficulty. 
Denies difficulties producing or comprehending speech.  Denies 
focal weakness, numbness, parasthesiae. No bowel or bladder 
incontinence or retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or 
chills, though previously multiple members of her family have 
been ill this ___.  No night sweats or recent weight loss or 
gain. Denies cough, shortness of breath.  Denies chest pain or 
tightness, palpitations.  Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain.  No recent change in bowel or 
bladder habits.  No dysuria.  Denies arthralgias or myalgias. 
Endorses mild upper chest redness at ___ that has since 
resolved without associated dyspnea or expansion of rash.  LMP 3 
weeks ago

 
Past Medical History:
Anxiety and depression with history of panic attacks, not 
currently medications
-Seasonal allergies
-Dyslipidemia:  reports most recent total cholesterol 221, HDL 
69, unknown LDL, not yet on medication
-History of 2 SVD births

 
Social History:
___
Family History:
Mother with migraines, onset at ___ years of age.  Father 
recently passed away in the last few months, with MI at ___.   

 
Physical Exam:
Neurologic:
Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, Language is fluent with intact 
repetition and comprehension. Normal prosody. There were no 
paraphasic errors. Speech was not dysarthric. Able to follow 
both midline and appendicular commands. There was no evidence of 
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk EOMI without 
nystagmus.  Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

Sensory: No deficits to light touch, pinprick throughout. No 
extinction to DSS.

Coordination: No intention tremor. No dysmetria on FNF 
bilaterally.

Gait: deferred

 
Pertinent Results:
___ 12:57AM BLOOD WBC-8.9 RBC-3.98 Hgb-12.4 Hct-36.5 MCV-92 
MCH-31.2 MCHC-34.0 RDW-12.5 RDWSD-41.6 Plt ___
___ 12:57AM BLOOD ___ PTT-26.0 ___
___ 12:57AM BLOOD Glucose-91 UreaN-16 Creat-0.6 Na-135 
K-3.6 Cl-100 HCO3-23 AnGap-16
___ 12:57AM BLOOD ALT-16 AST-19 LD(LDH)-83* CK(CPK)-53 
AlkPhos-56 TotBili-0.8
___ 12:57AM BLOOD CK-MB-<1 cTropnT-<0.01
___ 12:57AM BLOOD TotProt-6.2* Albumin-3.9 Globuln-2.3 
Cholest-198
___ 12:57AM BLOOD %HbA1c-4.6 eAG-85
___ 12:57AM BLOOD Triglyc-70 HDL-65 CHOL/HD-3.0 LDLcalc-119
___ 12:57AM BLOOD TSH-6.1*
___ 12:57AM BLOOD HCG-<5
___ 12:57AM BLOOD CRP-0.5

MRI Brain ___
IMPRESSION: 1. No acute intracranial abnormalities identified. 

MRA Head and Neck ___
IMPRESSION: 1. Re-demonstrated is a left vertebral artery 
dissection flap spanning from at least C4 through C6 with 
preserved flow. 

 
Brief Hospital Course:
___ female with depression, anxiety and HLD who was transferred 
from an OSH for further evaluation and treatment of left 
vertebral dissection. Pt states that while running two miles 
yesterday she had a twinge in her left neck about halfway 
through, but was able to complete the run. During a post-run 
brunch, she started to notice that her right visual field was 
shimmery, but it resolved after 20minutes. She then had 
recurrent episodes of visual changes including one episode of 
left sided visual changes and was then evaluated at ___ 
where a left vertebral dissection was diagnosed on CTA. She was 
started on a baby aspirin and transferred to ___. MRI did not 
show any infarct or signs of stroke. She is at her neurologic 
baseline and is stable for discharge home with outpatient 
neurology follow up.

Transitional Issues:
Aspirin 81mg daily until evaluated by Neurology as an outpatient
No strenuous activity or lifting more than 20lbs until evaluated 
by Neurology as an outpatient.
Please call ___ to make an appointment to see Dr. ___ 
___ Dr. ___ in ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left vertebral dissection
Possible migraine

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted to the Stroke Service at ___ after it was 
found that ___ had a left vertebral dissection (a tear in the 
lining of your artery in the back of your neck) on imaging of 
your vessels in your head and neck.  ___ were started on a baby 
aspirin and will continue on this until ___ are evaluated as an 
outpatient in the Neurology Clinic.

It is likely that give your history of motion sickness as a 
child, that ___ also have migraines.  Since people with 
migraines are more likely to have vascular injuries such as 
vertebral dissections.

We recommend that ___ avoid strenuous activity and do not lift 
more than 20 pounds until ___ are seen in Neurology Clinic.

Thank ___ for allowing us to participate in your care,
___ Neurology
 
Followup Instructions:
___